US06977262B2
Ethyl 6-benzyl-4-(2-chlorophenyl)-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-chlorobenzaldehyde, 3-aminopyrazole and ethyl 4-phenylacetoacetate in the same manner as in Example 1.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 4-phenylacetoacetate | C1(=CC=CC=C1)CC(CC(=O)OCC)=O | C12H14O3
product | Ethyl 6-benzyl-4-(2-chlorophenyl)-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | C(C1=CC=CC=C1)C1=C(C(C=2C(N1)=NNC2)C2=C(C=CC=C2)Cl)C(=O)OCC | C22H20ClN3O2
